Recorded-load averaged supply probe
Vbattery battery 0 PWL(0 0 .0002 7.4)
Vdisconnect disconnect 0 PWL(0 1 .08 1 .080001 0)
Sdisconnect battery switched disconnect 0 DISCONNECT
.model DISCONNECT SW(RON=1u ROFF=1e12 VT=.5 VH=0)
Rb switched vin .1
Cin vin 0 100u
Bcommand command 0 V=(V(en)>1) ? 5.15 : 0
Rsoft command reference 1000
Csoft reference 0 1u
Bconverter drive 0 V=(V(en)>1) ? max(0,min(V(reference),V(vin)-.6)) : 0
Drect drive rect DAVG
.model DAVG D(IS=1e-12 N=.01 RS=.001)
Lout rect internal 1u
Rout internal rail .03
Cout rail 0 960u
Rwire rail bus .02
Vwave wave 0 PWL(0 0 0.3 0 0.300001 -1 0.32 -1 0.320001 0 1 0)
Bload bus 0 I=(V(wave)>0) ? V(wave)*min(max(V(bus)/.5,0),1) : V(wave)
Binput vin 0 I=max(V(drive)*I(Lout),0)/(.85*max(V(vin),.5))
Bcontroller vin 0 I=3*max(V(vin),0)/(max(V(vin),.5)^2)
Rtop0 bus sense0 11918.0
Rbottom0 sense0 0 9900.0
Rfeedback0 gate0 sense0 990000.0
Rpull0 bus gate0 2200
Cgate0 gate0 0 2.2000000000000003e-09
Rbias0 bus refbrake0 2200
Bref0 refbrake0 0 V=min(2.507475,max(V(bus)-1,0))
Berror0 cmp0 0 V=V(refbrake0)-V(sense0)+0.004
Rlag0 cmp0 filt0 10000
Clag0 filt0 0 2e-09
Ssink0 gate0 0 filt0 0 SCOMP0
.model SCOMP0 SW(RON=50 ROFF=1e9 VT=0 VH=.001)
Rbrake0 bus drain0 5.746544
Sbrake0 drain0 source0 gate0 source0 SMOS0
.model SMOS0 SW(RON=0.1 ROFF=1e9 VT=2.5 VH=.05)
Bzener0 gate0 0 I=max(0,(V(gate0)-7.7625)/80.0)
Bquiescent0 bus 0 I=.0008*min(max(V(bus)/.5,0),1)
Rtop1 bus sense1 12221.0
Rbottom1 sense1 0 9900.0
Rfeedback1 gate1 sense1 990000.0
Rpull1 bus gate1 2200
Cgate1 gate1 0 2.2000000000000003e-09
Rbias1 bus refbrake1 2200
Bref1 refbrake1 0 V=min(2.507475,max(V(bus)-1,0))
Berror1 cmp1 0 V=V(refbrake1)-V(sense1)+0.004
Rlag1 cmp1 filt1 10000
Clag1 filt1 0 2e-09
Ssink1 gate1 0 filt1 0 SCOMP1
.model SCOMP1 SW(RON=50 ROFF=1e9 VT=0 VH=.001)
Rbrake1 bus drain1 5.746544
Sbrake1 drain1 source1 gate1 source1 SMOS1
.model SMOS1 SW(RON=0.1 ROFF=1e9 VT=2.5 VH=.05)
Bzener1 gate1 0 I=max(0,(V(gate1)-7.7625)/80.0)
Bquiescent1 bus 0 I=.0008*min(max(V(bus)/.5,0),1)
Ruvtop0 bus uvsense0 96253.0
Ruvbottom0 uvsense0 0 9900.0
Iuvbias0 uvsense0 0 2.5e-08
Buvlogic0 uvlogic0 0 V=(V(uvready) < .64) ? -1 : (0.404-V(uvsense0))
Vuvcurrent0 gate0 uvout0 0
Suvsink0 uvout0 0 uvlogic0 0 UVHOLD
Buvq0 aux 0 I=13u*min(max(V(aux)/1.8,0),1)
Cuvdec0 aux 0 100n
Ruvtop1 bus uvsense1 96253.0
Ruvbottom1 uvsense1 0 9900.0
Iuvbias1 uvsense1 0 2.5e-08
Buvlogic1 uvlogic1 0 V=(V(uvready) < .64) ? -1 : (0.404-V(uvsense1))
Vuvcurrent1 gate1 uvout1 0
Suvsink1 uvout1 0 uvlogic1 0 UVHOLD
Buvq1 aux 0 I=13u*min(max(V(aux)/1.8,0),1)
Cuvdec1 aux 0 100n
.model UVHOLD SW(RON=83.3333333333 ROFF=1e9 VT=0.002 VH=0.002)
Bldotarget ldotarget 0 V=min(3.207,max(V(vin)-.65,0))*min(max((V(vin)-2.7)/0.1,0),1)
Rldolag ldotarget ldofilter 1000
Cldolag ldofilter 0 200n
Bldo vin aux I=min(.32,max(0,(V(ldofilter)-V(aux))/.1))
Caux aux 0 4.7u
Rauxload aux 0 10k
Buv uv 0 V=3.1075-V(aux)
Sreset timer 0 uv 0 RESET
.model RESET SW(RON=10 ROFF=1e12 VT=0 VH=.0625)
Vnormalized normalized 0 1
Rtimer normalized timer 350k
Ctimer timer 0 4.465n
Bdriver driver 0 V=(V(timer)>.64) ? .8*V(aux) : min(.2,V(aux))
Bdriverload aux 0 I=max(0,-I(Bdriver)*V(driver))/max(V(aux),.1)
Rdrive driver diode_anode 1000
Bdiode diode_anode en I=max((V(diode_anode)-V(en)-.9)/10,0)-80n*max(0,min((V(en)-V(diode_anode))*100,1))
Cdiode diode_anode en 2p
Rinternal vin en 800k
Roff en 0 22220
Cen en 0 1n
Iinput 0 en 1u
Rbatmon_top vin batmon 140k
Rbatmon_bottom batmon 0 10k
Bbaterror baterror 0 V=.4-V(batmon)
Rbatlag baterror batfilter 10k
Cbatlag batfilter 0 5n
Rmr aux mr 100k
Smrsink mr 0 batfilter 0 BATMON
.model BATMON SW(RON=83.333333 ROFF=1e9 VT=.00275 VH=.00275)
Bmrerror mrerror 0 V=.6-V(mr)
Sctmanual timer 0 mrerror 0 MANUAL
.model MANUAL SW(RON=10 ROFF=1e12 VT=0 VH=.001)
Bbatq aux 0 I=13u*min(max(V(aux)/1.8,0),1)
Vuvunit uvunit 0 1
Ruvready uvunit uvready 100k
Cuvready uvready 0 4.4052675n
Buvreset uvreset 0 V=1.8-V(aux)
Suvreset uvready 0 uvreset 0 UVREADY
.model UVREADY SW(RON=10 ROFF=1e12 VT=0 VH=.005)
Rbleed0 rail 0 378
Rbleed1 rail 0 378
Rshunt0 source0 0 0.101
Rshunt1 source1 0 0.101
.save v(vin) v(rail) v(bus) v(aux) v(en) i(Lout) i(Vbattery) v(drain0) v(drain1) v(gate0) v(gate1) v(source0) v(source1)
.control
set wr_singlescale
set wr_vecnames
tran 100u 1 0 1u uic
let brake_current0 = (v(bus)-v(drain0))/5.746544
let brake_power0 = brake_current0*brake_current0*5.746544
let mos_power0 = (v(drain0)-(v(source0)))*brake_current0
let shunt_power0 = (v(source0))*brake_current0
let brake_current1 = (v(bus)-v(drain1))/5.746544
let brake_power1 = brake_current1*brake_current1*5.746544
let mos_power1 = (v(drain1)-(v(source1)))*brake_current1
let shunt_power1 = (v(source1))*brake_current1
meas tran powered_bus_min MIN v(bus) FROM=.05 TO=.079
meas tran powered_bus_max MAX v(bus) FROM=.05 TO=.079
meas tran bus_after_disconnect_max MAX v(bus) FROM=.08 TO=1
meas tran bus_0 FIND v(bus) AT=0.079
meas tran rail_0 FIND v(rail) AT=0.079
meas tran en_0 FIND v(en) AT=0.079
meas tran aux_0 FIND v(aux) AT=0.079
meas tran bus_1 FIND v(bus) AT=0.081
meas tran rail_1 FIND v(rail) AT=0.081
meas tran en_1 FIND v(en) AT=0.081
meas tran aux_1 FIND v(aux) AT=0.081
meas tran bus_2 FIND v(bus) AT=0.1
meas tran rail_2 FIND v(rail) AT=0.1
meas tran en_2 FIND v(en) AT=0.1
meas tran aux_2 FIND v(aux) AT=0.1
meas tran bus_3 FIND v(bus) AT=0.2
meas tran rail_3 FIND v(rail) AT=0.2
meas tran en_3 FIND v(en) AT=0.2
meas tran aux_3 FIND v(aux) AT=0.2
meas tran bus_4 FIND v(bus) AT=1.0
meas tran rail_4 FIND v(rail) AT=1.0
meas tran en_4 FIND v(en) AT=1.0
meas tran aux_4 FIND v(aux) AT=1.0
meas tran shunt0_energy_J INTEG shunt_power0 FROM=0 TO=1
meas tran shunt0_peak_W MAX shunt_power0 FROM=0 TO=1
meas tran powered_brake0_peak_W MAX brake_power0 FROM=.05 TO=.079
meas tran powered_brake0_peak_A MAX brake_current0 FROM=.05 TO=.079
meas tran brake0_energy_J INTEG brake_power0 FROM=.08 TO=1
meas tran brake0_peak_W MAX brake_power0 FROM=.08 TO=1
meas tran mos0_energy_J INTEG mos_power0 FROM=.08 TO=1
meas tran mos0_peak_W MAX mos_power0 FROM=.08 TO=1
meas tran shunt1_energy_J INTEG shunt_power1 FROM=0 TO=1
meas tran shunt1_peak_W MAX shunt_power1 FROM=0 TO=1
meas tran powered_brake1_peak_W MAX brake_power1 FROM=.05 TO=.079
meas tran powered_brake1_peak_A MAX brake_current1 FROM=.05 TO=.079
meas tran brake1_energy_J INTEG brake_power1 FROM=.08 TO=1
meas tran brake1_peak_W MAX brake_power1 FROM=.08 TO=1
meas tran mos1_energy_J INTEG mos_power1 FROM=.08 TO=1
meas tran mos1_peak_W MAX mos_power1 FROM=.08 TO=1
linearize v(vin) v(rail) v(bus) v(aux) v(en) i(Lout) i(Vbattery) v(drain0) v(drain1) v(gate0) v(gate1) v(source0) v(source1)
wrdata display_trace.dat v(vin) v(rail) v(bus) v(aux) v(en) i(Lout) i(Vbattery) v(drain0) v(drain1) v(gate0) v(gate1) v(source0) v(source1)
quit
.endc
.end
